US05851674
The silane C7F15CH2OCH2CH2CH2SiCl3 was prepared as described in Example 1 of U.S. Pat. No. 5,274,159 (Pellerite et al.). The silane C8F17SO2N(C2 H5)CH2CH2CH2SiCl3 was prepared by treatment of C8F17SO2N(C2H5)CH2CH=CH2 (which can be obtained as described in Example 1 of U.S. Pat. No. 3,442,664 (Heine)) with HSiCl3 (obtained from Aldrich Chemical Co., Milwaukee, Wis.) in the presence of 50-100 ppm Pt/divinyltetramethyldisiloxane as catalyst (prepared according to methods described in Example 10 of U.S. Pat. No. 3,814,730 (Karstedt)). The triacetoxysilane C7F15CH2OCH2CH2CH2 Si(OAc)3 was prepared by treating C7F15CH2OCH2CH2CH2SiCl3 with acetic anhydride, heating to distill out byproduct acetyl chloride, and vacuum distilling of the product. The silane C8F17CH2CH2SiCl3 was obtained from PCR Inc., Gainesville, Fla. The silane C7F15CH2OCH2 CH2CH2Si(CH3)Cl2 was prepared as described in Example 1 of U.S. Pat. No. 5,274,159 (Pellerite et al.) except that CH3SiHCl2 (obtained from Aldrich Chemical Co., Milwaukee, Wis.) was substituted for trichlorosilane. The silane C7F15CH2 OCH2CH2CH2Si(OEt)3 was prepared as described in Example 5 of U.S. Pat. No. 5,274,159 (Pellerite et al.), and C8 F17SO2N(Et)CH2CH2CH2Si(OMe)3 was prepared as described in Example 6 of the same document. Isoparaffinic solvents were obtained under the trade designations "ISOPAR G" and "ISOPAR L" from Exxon Chemical, Baytown, Tex. Ethyl perfluorobutyl ether and methyl perfluorobutyl ether were obtained under the trade designations "HFE 7200" and "HFE 7100," respectively, from 3M Company, St. Paul, Minn.

reactant | HSiCl3 | [SiH](Cl)(Cl)Cl | Cl3HSi
reactant | C7F15CH2OCH2CH2CH2SiCl3 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)COCCC[Si](Cl)(Cl)Cl | C11H8Cl3F15OSi
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | CH3SiHCl2 | C[SiH](Cl)Cl | CH4Cl2Si
reactant | trichlorosilane | Cl[SiH](Cl)Cl | Cl3HSi
product | ISOPAR G | CCCCCCCCC(C)C | C11H24
